US08859580B2
N-[3-(3H-Benzoimidazole-5-carbonyl)-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-9-ylmethyl]-acetamide
Triethylamine (38 μL) and acetic anhydride (26 μL) are added to a suspension of (9-aminomethyl-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl)-(3H-benzoimidazol-5-yl)-methanone (0.10 g) in acetonitrile (2 mL). The resulting mixture is stirred at ambient temperature for 1 h. Then, methanol (1 mL) and concentrated aqueous ammonia solution (0.5 mL) are added and the resulting solution is stirred for another 30 min. The solution is concentrated under reduced pressure and the residue is purified by HPLC on reversed phase (water/MeCN) to give the title compound as a white foam-like solid.

reactant | Triethylamine | 38 μL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 26 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | (9-aminomethyl-6,11,11-trimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl)-(3H-benzoimidazol-5-yl)-methanone | 0.10 g | NCC=1C=CC2=C(CC3N(CCC2(C3(C)C)C)C(=O)C3=CC2=C(N=CN2)C=C3)C1 | C24H28N4O
reactant | ammonia | 0.5 mL | N | H3N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | methanol | 1 mL | CO | CH4O
product | N-[3-(3H-Benzoimidazole-5-carbonyl)-6,11,11-trimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocin-9-ylmethyl]-acetamide | N1=CNC2=C1C=CC(=C2)C(=O)N2C1CC3=C(C(CC2)(C1(C)C)C)C=CC(=C3)CNC(C)=O | C26H30N4O2
